US05262427
1-Benzoyl-4-chloro-3-(5-methoxymethyl-3-isoxazolyl)-1,2,5,6-tetrahydropyridine
To a solution of 1-benzoyl-4-chloro-3-formyl-1,2,5,6-tetrahydropyridine oxime (5.3 g, 20 mmol) in 100 ml dry dimethylformamide was added N-bromosuccinimide (4.5 g, 25 mmol) dissolved in 20 ml dry dimethylformamide. The reaction mixture was stirred at room temperature for 1 h. Now methylpropargylether (1.5 ml, 25 mmol) and 2 ml triethylamine was added and the reaction mixture stirred at room temperature overnight. 200 ml water was added and the aqueous phase extracted with 3×50 ml ether. The combined ether extracts were washed with 2×50 ml water, dried over magnesiumsulfate and concentrated in vacuo. The compound was finally purified by column chromatography with methylenechloride/ethylacetate 4:1 as eluent. Yield: 3.5 g. M.p. 60.5°-62° C.

reactant | 1-benzoyl-4-chloro-3-formyl-1,2,5,6-tetrahydropyridine oxime | 20 mmol, 5.3 g | C(C1=CC=CC=C1)(=O)N1CC(=C(CC1)Cl)C=NO | C13H13ClN2O2
reactant | N-bromosuccinimide | 25 mmol, 4.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methylpropargylether | 25 mmol, 1.5 ml | COCC#C | C4H6O
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 1-Benzoyl-4-chloro-3-(5-methoxymethyl-3-isoxazolyl)-1,2,5,6-tetrahydropyridine | C(C1=CC=CC=C1)(=O)N1CC(=C(CC1)Cl)C1=NOC(=C1)COC | C17H17ClN2O3
